US06172057B2
2-Methyl-2-(2-methyl-furan-3-sulfonyl)-3-[4-(2-piperidin-yl-ethoxy)-phenyl]-propionic acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from 2-(2-methyl-furan-3-sulfonyl)-propionic acid ethyl ester (2.4 g, 9.8 mmol) and 1-[2-(4-chloromethylphenoxy)-ethyl]-piperidine (2.96 g, 10.7 mmol); Yield 2.4 g (92%); amber oil; MS 464.2 (M+H)+.

reactant | 2-(2-methyl-furan-3-sulfonyl)-propionic acid ethyl ester | 9.8 mmol, 2.4 g | C(C)OC(C(C)S(=O)(=O)C1=C(OC=C1)C)=O | C10H14O5S
reactant | 1-[2-(4-chloromethylphenoxy)-ethyl]-piperidine | 10.7 mmol, 2.96 g | ClCC1=CC=C(OCCN2CCCCC2)C=C1 | C14H20ClNO
product | 2-Methyl-2-(2-methyl-furan-3-sulfonyl)-3-[4-(2-piperidin-yl-ethoxy)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCN1CCCCC1)(S(=O)(=O)C1=C(OC=C1)C)C)=O | C24H33NO6S
